US05650533
A mixture of magnesium turnings (4.94 g) and carbon tetrachloride (2 ml) in ethanol (35 ml) was warmed to 50° C. until the reaction started. Diethyl ether (150 ml) was then added cautiously, with stirring. A solution of diethyl malonate (32.5 g) in diethyl ether (50 ml) was then added dropwise, then stirred and heated at reflux for 2 hours. After cooling the mixture, diethyl ether (150 ml) was added. A solution of 2-nitro-4-trifluoromethylbenzoyl chloride (50.7 g) in diethyl ether (100 ml) was added dropwise. The mixture was heated at reflux for 2 hours. After cooling, hydrochloric acid (2M,200 ml) was added and the layers were separated. The organic layer was washed with water, dried (anhydrous sodium sulphate), and filtered. The filtrate was evaporated to dryness, to give diethyl 2-nitro-4-trifluoromethylbenzoylmalonate (72.6 g), in the form of an off-white solid, m.p. 60° C.

reactant | magnesium | 4.94 g | [Mg] | Mg
reactant | diethyl malonate | 32.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-nitro-4-trifluoromethylbenzoyl chloride | 50.7 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
reactant | hydrochloric acid | 2M, 200 ml | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | Diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 2-nitro-4-trifluoromethylbenzoylmalonate | 72.6 g | [N+](=O)([O-])C1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC(=C1)C(F)(F)F | C15H14F3NO7
